US04456471
Preparation of 2-methyl-6-methoxycarbonyl-nitrobenzene
In this example a solution containing 1.002 mole of 2-methyl-6-chlorocarbonyl-nitrobenzene in 200 ml of ethyl ether and a small amount of methylene chloride was added to mixture containing 1.5 mole (60.8 ml) of methanol 1.002 mole (139.7 ml) of triethylamine and 200 ml of ethyl ether at about 0° C. The resulting mixture was stirred for one hour and then allowed to stand overnight. The mixture was then filtered and the filtrate washed with dilute aqueous acid and then washed with an aqueous sodium bicarbonate solution. The washed filtrate was dried and evaporated affording 183.3 g of the title product.

reactant | 2-methyl-6-chlorocarbonyl-nitrobenzene | 1.002 mole | CC1=C(C(=CC=C1)C(=O)Cl)[N+](=O)[O-] | C8H6ClNO3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | methanol | 1.5 mole, 60.8 ml | CO | CH4O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-methyl-6-methoxycarbonyl-nitrobenzene | 183.3 g | CC1=C(C(=CC=C1)C(=O)OC)[N+](=O)[O-] | C9H9NO4
